US05610174
Synthesis of (±)-N-[5-(4,5-Dihydro-1H-imidazol-2-yl)-2 -methoxy-5,6,7,8-tetra-hydronaphthalen-1-yl]methanesulfonamide.
N-(5-Cyano-2-methoxy-5,6,7,8-tetrahydronaphthalen-1-yl)methane-sulfonamide (1.5 g, 5.4 mmol) was dissolved in 200 ml of MeOH and cooled to 0° C. The solution was then treated with dry HCl gas for 2 h, sealed tightly and stored for 12 h at 25° C. The solvent was removed and the residue was redissolved in 100 ml of MeOH, followed by addition of ethylenediamine (0.67 ml, 10 mmol). The resulting solution was stirred at reflux for 12 h. The reaction mixture was concentrated in vacuo, yielding an oily residue which was subjected to column chromatography (25% NH3 sat'd MeOH-CHCl3) to provide 1.3 g (76%) of the desired product. 1H NMR (300 MHz, CD3OD): δ 1.78 (m, 2H), 1.96 (m, 1H), 2.12 (m, 1H), 2.95 (broad t, 2H), 2.98 (s, 3H), 3.82 (s, 3H), 3.90 (broad s, 4H), 4.11 (t, 1H, J=6.3 Hz), 6.96 (t, 1H, J=8.9 Hz), 7.05 (t, 1H, J=8.9 Hz).

reactant | N-(5-Cyano-2-methoxy-5,6,7,8-tetrahydronaphthalen-1-yl)methane-sulfonamide | 5.4 mmol, 1.5 g | C(#N)C1C=2C=CC(=C(C2CCC1)NS(=O)(=O)C)OC | C13H16N2O3S
reactant | HCl | Cl | ClH
reactant | ethylenediamine | 10 mmol, 0.67 ml | C(CN)N | C2H8N2
reactant | NH3 | N | H3N
solvent | MeOH | 200 ml | CO | CH4O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | (±)-N-[5-(4,5-Dihydro-1H-imidazol-2-yl)-2 -methoxy-5,6,7,8-tetra-hydronaphthalen-1-yl]methanesulfonamide | 1.3 g, 76% | N1C(=NCC1)C1C=2C=CC(=C(C2CCC1)NS(=O)(=O)C)OC | C15H21N3O3S
